US06172085B2
1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-[bis(4-methoxyphenyl)methyl]-4-piperidinamine
Starting with 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine and N-[bis(4-methoxyphenyl)methyl]-4-piperidinamine, the procedure of Example 53 was otherwise repeated to provide the title compound. Yield 43%.

reactant | 2-bromomethyl-2,3-dihydro-2,4,6,7-tetramethyl-5-benzofuranamine | BrCC1(OC2=C(C1)C(=C(C(=C2C)C)N)C)C | C13H18BrNO
reactant | N-[bis(4-methoxyphenyl)methyl]-4-piperidinamine | COC1=CC=C(C=C1)C(NC1CCNCC1)C1=CC=C(C=C1)OC | C20H26N2O2
product | 1-[(5-Amino-2,3-dihydro-2,4,6,7-tetramethylbenzofuran-2-yl)methyl]-N-[bis(4-methoxyphenyl)methyl]-4-piperidinamine | Yield 43% | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)NC(C2=CC=C(C=C2)OC)C2=CC=C(C=C2)OC)C1C)C)C | C33H43N3O3
